US05962438
Erythro 3-(3-(5,5-bis(dimethoxyphosphinoyl)-5-trimethylsilyloxyvalerylamino)-4-methoxymethoxyphenyl)-4-(4-methoxymethoxyphenyl)hexane
Erythro 3-(3-(5,5-bis(dimethoxyphosphinoyl)-5-trimethylsilyloxybutyrylamino)-4-methoxymethoxyphenyl)-4-(4-methoxymethoxyphenyl)hexane (1.17 g, quantitative yield) was obtained in the same manner as in Example 4 except for using erythro 3-(3-amino-4-methoxymethoxyphenyl)-4-(4-methoxymethoxyphenyl)hexane (560 mg) obtained by the process described in Reference Example 4 and 5,5-bis(dimethoxyphosphinoyl)-5-trimethylsilyloxyvaleric acid (1 equivalent per equivalent of the former) obtained by the process described in Reference Example 31.

reactant | 3-(3-amino-4-methoxymethoxyphenyl)-4-(4-methoxymethoxyphenyl)hexane | 560 mg | NC=1C=C(C=CC1OCOC)C(CC)C(CC)C1=CC=C(C=C1)OCOC | C22H31NO4
reactant | 5,5-bis(dimethoxyphosphinoyl)-5-trimethylsilyloxyvaleric acid | COP(=O)(C(CCCC(=O)O)(O[Si](C)(C)C)P(=O)(OC)OC)OC | C12H28O9P2Si
product | 3-(3-(5,5-bis(dimethoxyphosphinoyl)-5-trimethylsilyloxyvalerylamino)-4-methoxymethoxyphenyl)-4-(4-methoxymethoxyphenyl)hexane | COP(=O)(C(CCCC(=O)NC=1C=C(C=CC1OCOC)C(CC)C(CC)C1=CC=C(C=C1)OCOC)(O[Si](C)(C)C)P(=O)(OC)OC)OC | C34H57NO12P2Si
